2155-09-23 06:28:00 Physician Resident Progress Note
Chief Complaint: hypoxemia
   24 Hour Events:
   Ultrafiltration with removal 2L
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsMorphine
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-9-22**] 02:00 PM
   Cefipime - [**2155-9-22**] 06:00 PM
   Metronidazole - [**2155-9-22**] 08:04 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2155-9-22**] 01:46 PM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-9-23**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.8
   HR: 88 (84 - 105) bpm
   BP: 136/63(81) {91/53(61) - 136/75(86)} mmHg
   RR: 19 (13 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    520 mL
                                                                     63 mL
   PO:
             TF:
   IVF:
                                                                    520 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -780 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.50/35/224/30/4
   PaO2 / FiO2: 448
   Physical Examination
   GEN: Well-appearing, NAD
   HEENT: dry MM NGT in place
   NECK: supple, JVP 10 cm H20 HOB 30 deg
   CV: reg rate nl S1S2 no m/r/g
   PULM: bibasilar crackles L>R, bilateral rhonchi, no wheeze
   ABD: soft NTND normoactive BS
   EXT: warm, dry diminished distal pulses no edema, s/p L transmetatarsal
   amputation
   SKIN: scattered echymoses
   Neuro/Psych: awake, alert, conversing appropriately, oriented only to
   name and
hospital"
   Labs / Radiology
   189 K/uL
   9.6 g/dL
   116 mg/dL
   3.2 mg/dL
   30 mEq/L
   4.8 mEq/L
   31 mg/dL
   104 mEq/L
   142 mEq/L
   30.1 %
   14.4 K/uL
        [image002.jpg]
                            [**2155-9-22**]  12:48 PM
                            [**2155-9-22**]  04:23 PM
                            [**2155-9-23**]  05:07 AM
   WBC
   20.0
   14.4
   Hct
   29.7
   30.1
   Plt
   208
   189
   Cr
   2.9
   3.2
   TropT
   0.14
   TCO2
   28
   Glucose
   177
   116
   Other labs: PT / PTT / INR:21.1/38.8/2.0, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.5 mmol/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.1 mg/dL
   Imaging: [**9-22**] CXR
   Nasogastric tube ends in the stomach. The cardiomediastinal silhouette
   is stable. Note is made of increased distention of the azygous vein.
   Interstitial bilateral perihilar opacities have slightly improved,
   edema, the improvement is most notable in the lower lung fields.
   However, persistent perihilar opacities are present,
   infectious process, especially in the left upper lobe is not excluded
   and
   repeat radiograph after appropriate diuresis is recommended.
   Microbiology: [**Date range (1) 9500**] BCx NGTD
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to nosocomial pneumonia and
   pulmonary edema.
   .
   #Hypoxemic respiratory failure
 improved with UF (-2L), currently
   stable on home O2 3L NC; decompensation most attributable to nosocomial
   pneumonia and pulmonary edema, with possible predisposition from
   anxiety and respiratory depression for narcotics/anxiolytics
   -vanc/cefepime/flagyl (day [**2-9**]) for nosocomial, aspiration PNA
   -d/c flagyl
   -volume mgmt with HD
   -f/u pending Cx data
   -cont advair, nebs prn
   -consider TTE to eval pump function given h/o CAD & MI
   .
   #Chronic diarrhea - none at present, perhaps due to poor intake; prior
   extensive evaluation has been unremarkable
   -appreciate GI recs
   -replete vitamin K given concomitant coagulopathy
   -f/u stool studies
   -C-scope/EGD on hold given acute decompensation
   -24 hr fecal fat if diarrhea recurs (eval for pancreatic insufficiency)
   .
   #ESRD on HD
   -appreciate renal recs
   -plan for HD today
   -epo, zemplar with HD
   -d/c nephrocaps, MVI when resume TF per nutrition note in chart [**9-22**]
   .
   #CAD
   -ASA, plavix, BB
   -consider adding statin
   .
   #COPD
   -mgmt as above
   .
   #DM
   -SSI
   .
   #Depression/anxiety
   -continue seroquel, sertraline
   .
   #Chronic pain syndrome
   -cont narcotics, monitor for resp depression
   .
   #FEN: resume TF after PICC re-sited (nutren pulm goal rate 45 ml/hr
   1620 kcal/73 g protein)
   .
   #PPX: SQH, H2blocker
   .
   #Access - 20 g PIV
   .
   #Code: FULL CODE (confirmed on [**2155-9-22**])
   .
   #Communication: wife [**Doctor First Name 1189**] [**Telephone/Fax (1) 9501**]
   dtr ([**Name (NI) 635**]) [**Telephone/Fax (1) 9502**]
   .
   #Dispo: Transfer to floor if stable after HD
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-9-22**] 12:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Re-eval after HD for possible transfer to floor

2155-09-24 07:16:00 Physician Resident Progress Note
Chief Complaint: volume overload, nosocomial pneumonia
   24 Hour Events:
 PICC
SBP to 80s during HD, 1 kg removed
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsMorphine
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-9-22**] 02:00 PM
   Metronidazole - [**2155-9-23**] 08:00 AM
   Vancomycin - [**2155-9-23**] 11:50 AM
   Cefipime - [**2155-9-23**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: complaints of thirst; endorses nonproductive cough;
   denies chest pain, palpitations, shortness of breath, abd pain, nausea,
   diarrhea
   Flowsheet Data as of  [**2155-9-24**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 95 (87 - 107) bpm
   BP: 143/66(83) {97/24(53) - 146/66(83)} mmHg
   RR: 21 (17 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,054 mL
                                                                    390 mL
   PO:
             TF:
                                                                    314 mL
                                                                    319 mL
   IVF:
                                                                    590 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     54 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Venti mask 50%
   SpO2: 99%
   Physical Examination
   GEN: Well-appearing, resp mildly labored but no accessory muscle use
   HEENT: dry MM NGT in place
   NECK: supple, +JVD
   CV: reg rate nl S1S2 no m/r/g
   PULM: bibasilar crackles L>R, scattered rhonchi
   ABD: soft NTND normoactive BS
   EXT: warm, dry diminished distal pulses no edema, s/p L transmetatarsal
   amputation
   SKIN: scattered echymoses
   Neuro/Psych: awake, alert, conversing appropriately, oriented only to
   name
   Labs / Radiology
   176 K/uL
   8.4 g/dL
   205 mg/dL
   2.4 mg/dL
   34 mEq/L
   4.1 mEq/L
   22 mg/dL
   101 mEq/L
   141 mEq/L
   26.9 %
   13.1 K/uL
        [image002.jpg]
                            [**2155-9-22**]  12:48 PM
                            [**2155-9-22**]  04:23 PM
                            [**2155-9-23**]  05:07 AM
                            [**2155-9-24**]  05:52 AM
   WBC
   20.0
   14.4
   13.1
   Hct
   29.7
   30.1
   26.9
   Plt
   [**Telephone/Fax (3) 9527**]
   Cr
   2.9
   3.2
   2.4
   TropT
   0.14
   TCO2
   28
   Glucose
   177
   116
   205
   Other labs: PT / PTT / INR:20.7/42.3/1.9, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.5 mmol/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   Imaging: [**9-23**] portable CXR
   A right-sided PICC line has been re-positioned. The wire tip is
   not clearly visualized, however is at least at the level of the lower
   SVC/superior cavoatrial junction. The remainder of the radiograph is
   unchanged. There is no pneumothorax or evidence of complication of
   placement.
   Pre-existing bilateral parenchymal opacities appear unchanged. An NG
   tube is unchanged with tip in stomach. The cardiomediastinal silhouette
   is unchanged.
   IMPRESSION:
   Right-sided PICC line with wire tip not clearly visualized, however
   appears to
   be at least to the level of the lower SVC/cavoatrial junction.
   Microbiology: [**Date range (1) 9500**] blood Cx NGTD
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to pulmonary edema and nosocomial
   pneumonia.
   .
   #Hypoxemic respiratory failure
 improved with HD/UF currently stable
   on home O2 3L NC; decompensation most attributable to nosocomial
   pneumonia and pulmonary edema, with possible predisposition from
   anxiety and respiratory depression for narcotics/anxiolytics
   -vanc/cefepime (day [**3-12**]) for nosocomial, aspiration PNA , culture data
   negative so will d/c antibiotics and watch
   -volume mgmt with HD/UF
   -f/u pending Cx data
   -cont advair, nebs prn
   -consider TTE to eval pump function given h/o CAD & MI
   .
   #Chronic diarrhea - none at present, perhaps due to poor intake; prior
   extensive evaluation has been unremarkable
   -appreciate GI recs
   -replete vitamin K given concomitant coagulopathy
   -f/u stool studies
   -readdress C-scope/EGD when more stable
   -24 hr fecal fat if diarrhea recurs (eval for pancreatic insufficiency)
   #ESRD on HD
   -appreciate renal recs
   -plan for UF today as BP allows
   -epo, zemplar with HD
   .
   #CAD
   -ASA, plavix, BB
   -consider adding statin
   .
   #COPD
   -mgmt as above
   .
   #DM
   -SSI
   .
   #Depression/anxiety
   -continue seroquel, sertraline
   .
   #Chronic pain syndrome
   -cont narcotics, monitor for resp depression
   .
   #FEN: resume TF (nutren pulm goal rate 45 ml/hr 1620 kcal/73 g protein)
   .
   #PPX: SQH, H2blocker
   .
   #Access - 20 g PIV
   .
   #Code: FULL CODE (confirmed on [**2155-9-22**])
   .
   #Communication: wife [**Doctor First Name 1189**] [**Telephone/Fax (1) 9501**]
   dtr ([**Name (NI) 635**]) [**Telephone/Fax (1) 9502**]
   .
   #Dispo: Reevaluate after UF for stability for possible floor transfer
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2155-9-23**] 05:02 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Reevaluate after UF for stability for possible floor
   transfer

2155-09-27 11:48:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   -Metoprolol titrated to 25 mg [**Hospital1 **]
   -Started on captopril
   -Anxious overnight, gave seroquel 25 mg x1
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-9-26**] 08:00 PM
   Clindamycin - [**2155-9-27**] 02:02 AM
   Vancomycin - [**2155-9-27**] 11:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-9-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-9-27**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 82 (78 - 97) bpm
   BP: 134/59(77) {99/53(73) - 169/92(102)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
             Total In:
                                                                    903 mL
                                                                    887 mL
   PO:
             TF:
                                                                    643 mL
                                                                    517 mL
   IVF:
                                                                    100 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    250 mL
   Urine:
                                                                    100 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    803 mL
                                                                    637 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Poor dentition, NG tube
   Cardiovascular: (S1: Normal), S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   214 K/uL
   7.8 g/dL
   136 mg/dL
   2.3 mg/dL
   32 mEq/L
   3.7 mEq/L
   39 mg/dL
   100 mEq/L
   141 mEq/L
   24.5 %
   11.8 K/uL
        [image002.jpg]
                            [**2155-9-22**]  12:48 PM
                            [**2155-9-22**]  04:23 PM
                            [**2155-9-23**]  05:07 AM
                            [**2155-9-24**]  05:52 AM
                            [**2155-9-25**]  04:40 AM
                            [**2155-9-26**]  03:52 AM
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
   WBC
   20.0
   14.4
   13.1
   14.2
   13.0
   11.8
   Hct
   29.7
   30.1
   26.9
   25.1
   25.5
   24.5
   Plt
   [**Telephone/Fax (2) 9578**]
   Cr
   2.9
   3.2
   2.4
   2.9
   2.1
   2.3
   TropT
   0.14
   TCO2
   28
   35
   Glucose
   177
   116
   205
   113
   159
   136
   Other labs: PT / PTT / INR:20.7/42.3/1.9, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to pulmonary edema and nosocomial
   pneumonia.
     #Hypoxemic respiratory failure
 decompensation initially
   attributabed to nosocomial pneumonia and pulmonary edema, with possible
   predisposition from anxiety and respiratory depression from
   narcotics/anxiolytics but no significant improvement in oxygenation
   with HD/UF and ABX despite downtrending fever curve and leukocytosis
   -vanc/cefepime (day [**5-12**]) for nosocomial/aspiration PNA
   -clindamycin added for concern of cavitary lesion on CT scan, switched
   to flagyl for 2 week course with repeat chest imaging
   -volume mgmt with HD/UF, although degree of volume overload is minimal
   -uptitrated BB and added ACEi to improve filling time and afterload in
   order to reduce risk of acute diastolic CHF
   -cont advair, nebs prn
   -f/u pending Cx data
   #Encephalopathy
 most attributable to infection & hypoxemia; CT head
   negative for acute process.
   -holding doxepin
   -consider restarting seroquel at lower dose if stable after HD
   -limit narcotic regimen
    #Chronic diarrhea - none at present, perhaps due to poor intake; prior
   extensive evaluation has been unremarkable.  C diff and stool studies
   negative.
   -readdress C-scope/EGD when more stable
   -24 hr fecal fat if diarrhea recurs (eval for pancreatic insufficiency)
   #ESRD on HD
   -epo, zemplar with HD
   -appreciate renal recs
   #CAD
   -ASA, plavix, BB
   -add statin prior to discharge
   #COPD
   -change advair to HFA given poor compliance with diskus
   #DM
   -SSI
   #Depression/anxiety
   -continue sertraline
   -holding doxepin
   -consider restarting seroquel at lower dose if stable after HD
   #FEN: TF (nutren pulm goal rate 45 ml/hr 1620 kcal/73 g protein)
   #PPX: SQH, H2blocker
   #Access - R double-lumen PICC
   #Code: FULL CODE (confirmed on [**2155-9-22**])
   #Communication: daughter ([**Name (NI) 635**]) [**Telephone/Fax (1) 9502**]
   #Dispo: Reevaluate after UF for stability for possible floor transfer
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2155-9-27**] 10:55 AM 45 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor if stable after HD

2155-09-27 11:50:00 Physician Attending Progress Note
Chief Complaint: poor mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M wtih ESRD, copd, presented with poor mental status and tachypnea,
   now much improved after several extra hd sessions:
   24 Hour Events:
   -Metoprolol titrated to 25 mg [**Hospital1 **]
   -Started on captopril
   -Anxious overnight, gave seroquel 25 mg x1
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-9-26**] 08:00 PM
   Clindamycin - [**2155-9-27**] 02:02 AM
   Vancomycin - [**2155-9-27**] 11:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-9-26**] 08:00 PM
   Other medications:
   atrovent, sqh, riss, cef, vanco with hd, colace, clinda, zoloft,
   plavix, iron, mvi, ranitidine, metopr, capto, lido, tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Psychiatric / Sleep: Agitated, Delirious
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-9-27**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 82 (78 - 97) bpm
   BP: 134/59(77) {99/53(73) - 169/92(102)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
             Total In:
                                                                    903 mL
                                                                    883 mL
   PO:
             TF:
                                                                    643 mL
                                                                    513 mL
   IVF:
                                                                    100 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    250 mL
   Urine:
                                                                    100 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    803 mL
                                                                    633 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   7.8 g/dL
   214 K/uL
   136 mg/dL
   2.3 mg/dL
   32 mEq/L
   3.7 mEq/L
   39 mg/dL
   100 mEq/L
   141 mEq/L
   24.5 %
   11.8 K/uL
        [image002.jpg]
                            [**2155-9-22**]  12:48 PM
                            [**2155-9-22**]  04:23 PM
                            [**2155-9-23**]  05:07 AM
                            [**2155-9-24**]  05:52 AM
                            [**2155-9-25**]  04:40 AM
                            [**2155-9-26**]  03:52 AM
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
   WBC
   20.0
   14.4
   13.1
   14.2
   13.0
   11.8
   Hct
   29.7
   30.1
   26.9
   25.1
   25.5
   24.5
   Plt
   [**Telephone/Fax (3) 9578**]
   Cr
   2.9
   3.2
   2.4
   2.9
   2.1
   2.3
   TropT
   0.14
   TCO2
   28
   35
   Glucose
   177
   116
   205
   113
   159
   136
   Other labs: PT / PTT / INR:20.7/42.3/1.9, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   60M with ESRD, DM, CAD and COPD, here with fluid overload, poot mental
   status, and pneumonia. Significant improvement with increased HD
   sessions is reassuring, although he remains on broad abx and standing
   tylenol
   For pneumonia, unable to obtain adequate sputum and mrsa screen is
   negative. Given the cavity, there is some concern an anaerobic
   infection. Will plan to finsh 8-day course of vanco/cefepime, and start
   flagyl for anaerobic infection for at least a 4 wk with plans to
   reimage chest after completion of course.
   Delirium persists, likely toxic-metabolic. Previously on seroquel very
   high dose; will hold off now but may need it tonight.
   ICU Care
   Nutrition: tube feeds
   Nutren Pulmonary (Full) - [**2155-9-27**] 10:55 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill

2155-09-28 07:28:00 Physician Resident Progress Note
Chief Complaint: hypoxemic respiratory failure
   24 Hour Events:
   - removed 1.6L by HD, stopped short of goal -2L because patient became
   tachypneic and looked unwell. Desatted, put on NRB, then BiPap with
   some improvement
   - clinda changed to flagyl for cavitary lesion in RLL
   - febrile to 101.1 at 12:10am, pan-cultured
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefepime - [**2155-9-26**] 08:00 PM
   Clindamycin - [**2155-9-27**] 02:02 AM
   Vancomycin - [**2155-9-27**] 11:00 AM
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: no complaints
   Flowsheet Data as of  [**2155-9-28**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.7
C (98.1
   HR: 96 (82 - 120) bpm
   BP: 150/49(74) {111/32(45) - 159/76(112)} mmHg
   RR: 19 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
                  Total In:
                                                                  1,174 mL
                                                                     90 mL
   PO:
                  TF:
                                                                    564 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    300 mL
   Urine:
                                                                    650 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,126 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 452 (365 - 546) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 99%
   ABG: 7.47/51/238/34/12
   Ve: 9.2 L/min
   PaO2 / FiO2: 680
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Poor dentition, NG tube
   Cardiovascular: (S1: Normal), S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Diminished
   : bibasilar)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   272 K/uL
   7.5 g/dL
   102 mg/dL
   2.0 mg/dL
   34 mEq/L
   3.9 mEq/L
   21 mg/dL
   100 mEq/L
   142 mEq/L
   22.8 %
   13.7 K/uL
        [image002.jpg]
                            [**2155-9-23**]  05:07 AM
                            [**2155-9-24**]  05:52 AM
                            [**2155-9-25**]  04:40 AM
                            [**2155-9-26**]  03:52 AM
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
   WBC
   14.4
   13.1
   14.2
   13.0
   11.8
   13.7
   Hct
   30.1
   26.9
   25.1
   25.5
   24.5
   22.8
   Plt
   189
   176
   209
   [**Telephone/Fax (3) 9585**]
   Cr
   3.2
   2.4
   2.9
   2.1
   2.3
   2.0
   TCO2
   35
   38
   37
   38
   Glucose
   116
   205
   113
   159
   136
   102
   Other labs: PT / PTT / INR:20.7/42.3/1.9, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.8 mg/dL
   Imaging: [**9-27**] Portable CXR
   The NG tube tip is in the stomach. The right PICC line tip may be in
   the
   proximal right atrium. Cardiomediastinal silhouette is unchanged. There
   is
   no change in extensive parenchymal opacities that have a perihilar
   distribution with radiological appearance on the chest CT being
   concerning for
   infectious process and less concerning for pulmonary edema but overall
   no
   significant change since [**2155-9-25**] is demonstrated with no
   increase in minimal bilateral pleural effusion seen.
   Microbiology: [**2155-9-27**] 4:10 pm SPUTUM      Source: Induced.
      GRAM STAIN (Final [**2155-9-27**]):
         <10 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   [**9-28**] UCx NGTD
   [**Date range (1) 9586**] BCx NGTD
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to nosocomial pneumonia and, to a
   lesser extent, pulmonary edema.
   .
     #Hypoxemic respiratory failure
 decompensation initially
   attributabed to nosocomial pneumonia and pulmonary edema, with possible
   predisposition from anxiety and respiratory depression from
   narcotics/anxiolytics but no significant clinically improvement despite
   ABX & HD/UF
   -vanc/cefepime (day [**5-12**]) for nosocomial/aspiration PNA
   -clindamycin changed to flagyl [**9-27**] in the setting of cavitary
   consolidation on chest CT to complete 2 week course in the setting of
   persistent fevers & h/o c.diff
   -cont BiPAP as tolerated as appears more comfortable when on NIPPV, and
   slightly hypercarbia on recent ABG
   -volume mgmt with HD/UF, although contribution of volume overload to
   current clinical picture is minimal
   -cont BB/ACEi to improve filling time and afterload in order to reduce
   risk of acute hypertension & diastolic CHF
   -cont advair, nebs prn
   -f/u pending Cx data
   .
   #Encephalopathy
 most attributable to infection & hypoxemia; CT head
   negative for acute process.
   -holding doxepin
   -consider restarting seroquel at lower dose if stable after HD
   -limit narcotic regimen
   .
    #Chronic diarrhea - none at present, perhaps due to poor intake; prior
   extensive evaluation has been unremarkable.  C diff and stool studies
   negative.
   -repeat C. diff toxin
   -consider readdressing C-scope/EGD when more stable
   -24 hr fecal fat if diarrhea recurs (eval for pancreatic insufficiency)
   .
   #ESRD on HD
   -epo, zemplar with HD
   -appreciate renal recs
   .
   #CAD
   -ASA, plavix, BB
   -add statin prior to discharge
   .
   #COPD
   -change advair to HFA given poor compliance with diskus
   .
   #DM
   -SSI
   .
   #Depression/anxiety
   -continue sertraline
   -holding doxepin
   -consider restarting seroquel at lower dose if stable after HD
   .
   #FEN: TF (nutren pulm goal rate 45 ml/hr 1620 kcal/73 g protein);
   aspiration precautions with elevated HOB during TF
   #PPX: SQH, H2blocker
   #Access - R double-lumen PICC
   #Code: FULL CODE (confirmed on [**2155-9-22**])
   #Communication: daughter ([**Name (NI) 635**]) [**Telephone/Fax (1) 9502**]
   #Dispo: ICU
   ICU Care
   Nutrition: TF; will address postpyloric tube vs. G-J tube given high
   risk of aspiration
   Glycemic Control:
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2155-09-28 09:14:00 Physician Attending Progress Note
Chief Complaint: hypotension, hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to nosocomial pneumonia and
   pulmonary edema.
   24 Hour Events:
   - was doing well, talking, asking to go home, until...HD
   - clinda changed to flagyl for cavitary lesion in RLL
   - patient has h/o cdiff and VRE??
   - spiked to 101.1 at 12:10am, pan-cultured
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-9-26**] 08:00 PM
   Clindamycin - [**2155-9-27**] 02:02 AM
   Vancomycin - [**2155-9-27**] 11:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-9-28**] 08:48 AM
   Other medications:
   sqh, atr, riss, cef, vanco p hd, plavix, iron, mvi, asa, zantac, metopr
   capto, lido, flagyl, oxycodone x1, tylenol x1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: Epistaxis, OG / NG tube
   Nutritional Support: NPO
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2155-9-28**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.2
   HR: 95 (82 - 120) bpm
   BP: 162/67(89) {111/32(45) - 162/76(112)} mmHg
   RR: 18 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg, Height: 71 Inch
                  Total In:
                                                                  1,174 mL
                                                                     90 mL
   PO:
                  TF:
                                                                    564 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    300 mL
   Urine:
                                                                    650 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,126 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 0 (0 - 546) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: 7.47/51/238/34/12
   Ve: 7.7 L/min
   PaO2 / FiO2: 680
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: througout,
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Skin:  Warm
   Neurologic: Attentive, Follows simple commands, alert and oriented
   earlier today, currently somewhat confused
   Labs / Radiology
   7.5 g/dL
   272 K/uL
   102 mg/dL
   2.0 mg/dL
   34 mEq/L
   3.9 mEq/L
   21 mg/dL
   100 mEq/L
   142 mEq/L
   22.8 %
   13.7 K/uL
        [image002.jpg]
                            [**2155-9-23**]  05:07 AM
                            [**2155-9-24**]  05:52 AM
                            [**2155-9-25**]  04:40 AM
                            [**2155-9-26**]  03:52 AM
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
   WBC
   14.4
   13.1
   14.2
   13.0
   11.8
   13.7
   Hct
   30.1
   26.9
   25.1
   25.5
   24.5
   22.8
   Plt
   189
   176
   209
   [**Telephone/Fax (3) 9585**]
   Cr
   3.2
   2.4
   2.9
   2.1
   2.3
   2.0
   TCO2
   35
   38
   37
   38
   Glucose
   116
   205
   113
   159
   136
   102
   Other labs: PT / PTT / INR:20.7/42.3/1.9, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.8 mg/dL
   Microbiology: cdiff -
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to nosocomial pneumonia and
   pulmonary edema.
   Over the last few days he has had removal of fluid with HD and
   ultrafiltration with questionable improvement. Aspiration seems to be
   the most consistent and concerning feature of his presentation. Since
   yesterday he has improved with intermittent use of NIPPV but he remains
   tenuous.
   The new fever etiology is also unclear
 aspiration pneumonitis is a
   possibility, but will follow-up cultures. He is currently on
   vancomycin, zosyn, and flagyl for treatment of HAP / aspiration. Will
   stop all abx except for flagyl after 8-day course is completed and will
   continue flagyl.
   Delerium
 fluctuating MS is not new since admission. CT head ? right
   temporal lobe lesion, may need MR [**First Name (Titles) **] [**Last Name (Titles) 9590**] issues.
   Will plan on having continued family discussion. Not clear how to
   address recurrent aspiration despite NPO. G->J is a possibility that
   will need to be discussed with family and consultants. Nutrition is
   clearly an important issue.
   ICU Care
   Nutrition: NPO, will try TF again
   Glycemic Control:
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Patient is critically ill,  total time spent: 30 min

2155-09-29 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pulled NGT, replaced
   Patient unable to provide history: Encephalopathy, Poor historian
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-9-26**] 08:00 PM
   Clindamycin - [**2155-9-27**] 02:02 AM
   Vancomycin - [**2155-9-27**] 11:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-9-28**] 08:48 AM
   Lorazepam (Ativan) - [**2155-9-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-9-29**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 91 (73 - 98) bpm
   BP: 146/57(79) {109/41(61) - 162/83(94)} mmHg
   RR: 11 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
                  Total In:
                                                                    473 mL
                  PO:
                  TF:
                                                                    383 mL
   IVF:
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    173 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (0 - 520) mL
   PS : 5 cmH2O
   RR (Set): 35
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 100%
   ABG: ///29/
   Ve: 11 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   328 K/uL
   7.9 g/dL
   89 mg/dL
   2.6 mg/dL
   29 mEq/L
   3.5 mEq/L
   37 mg/dL
   102 mEq/L
   146 mEq/L
   24.8 %
   13.3 K/uL
        [image002.jpg]
                            [**2155-9-24**]  05:52 AM
                            [**2155-9-25**]  04:40 AM
                            [**2155-9-26**]  03:52 AM
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
                            [**2155-9-29**]  04:02 AM
   WBC
   13.1
   14.2
   13.0
   11.8
   13.7
   13.3
   Hct
   26.9
   25.1
   25.5
   24.5
   22.8
   24.8
   Plt
   176
   209
   202
   [**Telephone/Fax (3) 9598**]
   Cr
   2.4
   2.9
   2.1
   2.3
   2.0
   2.6
   TCO2
   35
   38
   37
   38
   Glucose
   [**Telephone/Fax (3) 9599**]36
   102
   89
   Other labs: PT / PTT / INR:23.3/38.1/2.2, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:6.0 mg/dL
   Microbiology: [**9-28**] - CDiff negative
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to nosocomial pneumonia and, to a
   lesser extent, pulmonary edema.
   .
   #Hypoxemic respiratory failure
 decompensation initially attributabed
   to nosocomial pneumonia and pulmonary edema, with possible
   predisposition from anxiety and respiratory depression from
   narcotics/anxiolytics but no significant clinically improvement despite
   ABX & HD/UF
   -vanc/cefepime (day [**8-12**]) for nosocomial/aspiration PNA  - start date
   [**9-21**], today last day
   -clindamycin changed to flagyl [**9-27**] in the setting of cavitary
   consolidation on chest CT to complete 2 week course in the setting of
   persistent fevers & h/o c.diff
   -cont BiPAP as tolerated as appears more comfortable when on NIPPV, and
   slightly hypercarbia on recent ABG
   -volume mgmt with HD/UF, although contribution of volume overload to
   current clinical picture is minimal
   -cont BB/ACEi to improve filling time and afterload in order to reduce
   risk of acute hypertension & diastolic CHF
   -cont advair, nebs prn
   -f/u pending Cx data
   - has been getting CPAP at night but no clear indication based on gases
   that it is helping matters, would recommend not continuing for patient
   comfort
   .
   #Encephalopathy
 most attributable to infection & hypoxemia; CT head
   negative for acute process.
   -holding doxepin, seroquel
   -limit narcotic regimen
    #Chronic diarrhea - none at present, perhaps due to poor intake; prior
   extensive evaluation has been unremarkable.  C diff and stool studies
   negative.
   -repeat C. diff toxin negative
   -consider readdressing C-scope/EGD when more stable
   -24 hr fecal fat if diarrhea recurs (eval for pancreatic insufficiency)
   .
   #ESRD on HD
   -epo, zemplar with HD
   -appreciate renal recs
   .
   #CAD
   -ASA, plavix, BB
   -add statin prior to discharge
   .
   #COPD
   -change advair to HFA given poor compliance with diskus
   #DM
   -SSI
   .
   #Depression/anxiety
   -continue sertraline
   -holding doxepin
   -consider restarting seroquel at lower dose if stable after HD
   .
   #FEN: TF (nutren pulm goal rate 45 ml/hr 1620 kcal/73 g protein);
   aspiration precautions with elevated HOB during TF
   #PPX: SQH, H2blocker
   #Access - R double-lumen PICC, L fistula
   #Code: FULL CODE (confirmed on [**2155-9-22**])
   #Communication: daughter ([**Name (NI) 635**]) [**Telephone/Fax (1) 9502**]
   #Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2155-09-29 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   pulled out NGT
   BiPAP overnight
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-9-26**] 08:00 PM
   Clindamycin - [**2155-9-27**] 02:02 AM
   Vancomycin - [**2155-9-27**] 11:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2155-9-28**] 08:00 PM
   Ranitidine (Prophylaxis) - [**2155-9-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2155-9-29**] 10:17 AM
   Other medications:
   atrovent, SSI, plavix, MVI metoprolol, , lidocaine patch, po flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-9-29**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 88 (73 - 98) bpm
   BP: 146/60(78) {109/41(61) - 156/83(94)} mmHg
   RR: 17 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
                  Total In:
                                                                    473 mL
                                                                    120 mL
   PO:
                  TF:
                                                                    383 mL
   IVF:
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    173 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 520 (250 - 520) mL
   PS : 5 cmH2O
   RR (Set): 35
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 0%
   SpO2: 100%
   ABG: ///29/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Chronically ill, wasted appearing male
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice, scattered ecchymoses
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Non -purposeful, No(t) Sedated, Tone:
   Normal
   Labs / Radiology
   7.9 g/dL
   328 K/uL
   89 mg/dL
   2.6 mg/dL
   29 mEq/L
   3.5 mEq/L
   37 mg/dL
   102 mEq/L
   146 mEq/L
   24.8 %
   13.3 K/uL
        [image002.jpg]
                            [**2155-9-24**]  05:52 AM
                            [**2155-9-25**]  04:40 AM
                            [**2155-9-26**]  03:52 AM
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
                            [**2155-9-29**]  04:02 AM
   WBC
   13.1
   14.2
   13.0
   11.8
   13.7
   13.3
   Hct
   26.9
   25.1
   25.5
   24.5
   22.8
   24.8
   Plt
   176
   209
   202
   [**Telephone/Fax (3) 9598**]
   Cr
   2.4
   2.9
   2.1
   2.3
   2.0
   2.6
   TCO2
   35
   38
   37
   38
   Glucose
   [**Telephone/Fax (3) 9599**]36
   102
   89
   Other labs: PT / PTT / INR:23.3/38.1/2.2, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:6.0 mg/dL
   Fluid analysis / Other labs: CDiff negative
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at HD with chronic diarrhea and weight loss,
   transferred to MICU [**9-22**] for hypoxemic respiratory failure most
   attributable to nosocomial pneumonia and pulmonary edema.
   1. Aspiration PNA:
   Has  underlying COPD with 3 liters home oxygen requirement, poor
   secretion management, and aspiration.
   Oxygen requirements reduced today.
    dc Vanc/Cefipime as a course of abx has been completed. Continue
   alb/atrovent
    2 wk course of flagyl for possible area of cavitation on CT
   questionable benefit from NIPPV- leave off
   2. Encephalopathy:
   Remains somnolent with waxing/[**Doctor Last Name 226**] MS- has been occurring throughout
   hospitalization but precise onset unknown
   Mutliple contributing  causes given intermitent hypoxia, infection,
   medications. Head CT
s negative for acute process.
   Hold sedating medications.  If of new onset and persistent, could
   consider MRI
   3.CRF: On HD intermittently. No clear indications for HD today and will
   see if this can be held given worsening status (MS, hypotension) after
   HD
   4. Diarrhea: further w/u on hold until acute issues stabilize
   5. Should have family conference to address status and future plans
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Pt is critically ill.

2155-09-30 07:56:00 Physician Resident Progress Note
Chief Complaint: hypoxemic respiratory failure, nosocomial pneumonia
   24 Hour Events:
   none
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsMorphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2155-9-27**] 11:00 AM
   Metronidazole - [**2155-9-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2155-9-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2155-9-29**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-9-30**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 35.8
C (96.4
   HR: 71 (70 - 91) bpm
   BP: 189/73(103) {118/46(69) - 189/79(103)} mmHg
   RR: 16 (14 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
                  Total In:
                                                                    763 mL
                                                                    479 mL
   PO:
                  TF:
                                                                    448 mL
                                                                    349 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    763 mL
                                                                    479 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 100%
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, year only, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   376 K/uL
   7.8 g/dL
   110 mg/dL
   3.1 mg/dL
   31 mEq/L
   3.3 mEq/L
   49 mg/dL
   103 mEq/L
   148 mEq/L
   24.7 %
   11.5 K/uL
        [image002.jpg]
                            [**2155-9-25**]  04:40 AM
                            [**2155-9-26**]  03:52 AM
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
                            [**2155-9-29**]  04:02 AM
                            [**2155-9-30**]  04:16 AM
   WBC
   14.2
   13.0
   11.8
   13.7
   13.3
   11.5
   Hct
   25.1
   25.5
   24.5
   22.8
   24.8
   24.7
   Plt
   [**Telephone/Fax (3) 9612**]72
   328
   376
   Cr
   2.9
   2.1
   2.3
   2.0
   2.6
   3.1
   TCO2
   35
   38
   37
   38
   Glucose
   113
   159
   136
   102
   89
   110
   Other labs: PT / PTT / INR:23.3/38.1/2.2, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.6 mg/dL
   Microbiology: [**2155-9-27**] 4:10 pm SPUTUM      Source: Induced.
      GRAM STAIN (Final [**2155-9-27**]):
         <10 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      RESPIRATORY CULTURE (Final [**2155-9-29**]):
         MODERATE GROWTH Commensal Respiratory Flora.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2155-9-28**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
   BCx [**Date range (1) 9613**]
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to nosocomial pneumonia and, to a
   lesser extent, acute pulmonary edema.
   .
   #Hypoxemic respiratory failure
 clinically improved, now stable on
   home O2 2-3L; completed 8-day ABX course for nosocomial PNA, continuing
   flagyl for aspiration PNA/cavitation on chest CT
   -cont. flagyl day [**3-18**]
   -due for HD today but no acute indication so would favor deferring
   until discussion with family
   -cont advair, nebs prn
   .
   #ESRD on HD
   -epo, zemplar with HD
   -appreciate renal recs
   .
   #CAD
   -ASA, plavix, BB
   -add statin
   .
   #COPD
   -changed advair to HFA given poor compliance with proper use of
   diskus
   .
    #HTN
   -increase captopril to 25 mg TID
   -cont metoprolol
   .
   #DM
   -SSI
   .
   #Depression/anxiety
   -continue sertraline
   -holding doxepin, seroquel
   .
   #FEN: TF (nutren pulm goal rate 45 ml/hr 1620 kcal/73 g protein);
   increase free H20 boluses to address hypernatremia; d/w HCP PEG tube
   #PPX: SQH, H2blocker
   #Access - R double-lumen PICC, L fistula
   #Code: FULL CODE (confirmed on [**2155-9-22**]), will discuss goals of care as
   will likely benefit from PEG/rehab
   #Communication: daughter ([**Name (NI) 635**]) [**Telephone/Fax (1) 9502**]
   #Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2155-9-29**] 10:24 AM 45 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2155-09-30 09:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at HD with chronic diarrhea and weight loss,
   transferred to MICU [**9-22**] for hypoxemic respiratory failure most
   attributable to nosocomial pneumonia and pulmonary edema.
   24 Hour Events:
   None
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2155-9-27**] 11:00 AM
   Metronidazole - [**2155-9-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2155-9-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2155-9-30**] 08:00 AM
   Other medications:
   Atrovent, RISS, Zoloft, Plavix, Ferrous sulfate, MV, Asa 81, Lopressor
   25 [**Hospital1 **], Advair [**Hospital1 **], Lidocaine patch, Flagyl 500 IV PO q8h, Captopril 25
   TID.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-9-30**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 85 (70 - 89) bpm
   BP: 135/67(82) {118/46(69) - 189/79(103)} mmHg
   RR: 27 (14 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
                  Total In:
                                                                    763 mL
                                                                    672 mL
   PO:
                  TF:
                                                                    448 mL
                                                                    422 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    763 mL
                                                                    672 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   RR (Spontaneous): 14-40
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Coarse : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): Person, year, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   376 K/uL
   110 mg/dL
   3.1 mg/dL
   31 mEq/L
   3.3 mEq/L
   49 mg/dL
   103 mEq/L
   148 mEq/L
   24.7 %
   11.5 K/uL
        [image002.jpg]
                            [**2155-9-25**]  04:40 AM
                            [**2155-9-26**]  03:52 AM
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
                            [**2155-9-29**]  04:02 AM
                            [**2155-9-30**]  04:16 AM
   WBC
   14.2
   13.0
   11.8
   13.7
   13.3
   11.5
   Hct
   25.1
   25.5
   24.5
   22.8
   24.8
   24.7
   Plt
   [**Telephone/Fax (3) 9612**]72
   328
   376
   Cr
   2.9
   2.1
   2.3
   2.0
   2.6
   3.1
   TCO2
   35
   38
   37
   38
   Glucose
   113
   159
   136
   102
   89
   110
   Other labs: PT / PTT / INR:23.3/38.1/2.2, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.6 mg/dL
   Microbiology: Sputum [**9-27**] - oral flora
   Bood cultures [**2071-9-24**] - NGTD
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at HD with chronic diarrhea and weight loss,
   transferred to MICU [**9-22**] for hypoxemic respiratory failure most
   attributable to nosocomial pneumonia and pulmonary edema.
   #. Aspiration PNA: Has underlying COPD with 3 liters home oxygen
   requirement, poor secretion management, and aspiration.
   Oxygen requirements reduced
 now on 2L.
   - S/P course of vanc/cefipime x 9 days (d/c
ed [**9-29**]) as a course of
   abx has been completed.
   - Continue alb/atrovent/Advair
   - 2 wk course of flagyl for possible area of cavitation on CT
   (anaerobic coverage)
   #. Encephalopathy: Has had waxing and [**Doctor Last Name 226**] mental status, though good
   mentation today. Head CT
s negative for acute process and  sedating
   medications.  Some concern over temporal relationship to dialysis
   sessions.
   No additional management today, will need close monitoring after next
   HD session.
   #. CRF: On HD intermittently. Regular HD session scheduled today, but
   has not tolerated well in the past ((MS, hypotension) so will defer as
   no clear indication for HD.
   #. FEN/GI: Diarrhea - further w/u on hold until acute issues stabilize.
   On TF at goal for nutrition. FWF for hypernatremia.
   #.  HTN: Titrate BP meds.
   #. Family meeting held today to discuss goals and plans of care
 their
   main goal is to eventually transition him home safely. They desire
   aggressive measures to reach this standpoint, including PEG tube and,
   if sudden respiratory failure develops, intubation.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2155-9-29**] 10:24 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2155-10-01 07:48:00 Physician Resident Progress Note
Chief Complaint: aspiration PNA
   24 Hour Events:
   - No monoclonal immunoglobulin seen
   - Family meeting held, their wishes are to continue aggressive care
   - S&S recs sips of nectar thick liquids if sitting upright with
   supervision, video swallow study planned for [**10-1**]
   -additional 12.5 mg captopril for BP 187/72 at 0500
   -labetalol 10 mg IV x 2 for BP 217/96 at 0730 -> BP 166/64
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsMorphine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2155-9-30**] 12:40 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2155-9-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2155-9-30**] 10:00 PM
   Labetalol - [**2155-10-1**] 07:10 AM
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies fever, chills, cough, chest pain, shortness
   of breath, abd pain,  nausea, diarrhea
   Flowsheet Data as of  [**2155-10-1**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 82 (75 - 88) bpm
   BP: 186/104(124) {117/40(65) - 187/104(124)} mmHg
   RR: 23 (17 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
                  Total In:
                                                                  2,100 mL
                                                                    478 mL
   PO:
                  TF:
                                                                  1,080 mL
                                                                    348 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,100 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97% 2L
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, year, "hospital", Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   380 K/uL
   7.5 g/dL
   104 mg/dL
   2.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   52 mg/dL
   105 mEq/L
   145 mEq/L
   23.5 %
   10.4 K/uL
        [image002.jpg]
                            [**2155-9-26**]  03:52 AM
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
                            [**2155-9-29**]  04:02 AM
                            [**2155-9-30**]  04:16 AM
                            [**2155-10-1**]  04:01 AM
   WBC
   13.0
   11.8
   13.7
   13.3
   11.5
   10.4
   Hct
   25.5
   24.5
   22.8
   24.8
   24.7
   23.5
   Plt
   [**Telephone/Fax (3) 9628**]28
   376
   380
   Cr
   2.1
   2.3
   2.0
   2.6
   3.1
   2.9
   TCO2
   35
   38
   37
   38
   Glucose
   159
   136
   102
   89
   110
   104
   Other labs: PT / PTT / INR:23.3/38.1/2.2, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to nosocomial pneumonia and, to a
   lesser extent, acute pulmonary edema.
   .
   #Hypoxemic respiratory failure
 clinically improved, now stable on
   home O2 2-3L; completed 8-day ABX course for nosocomial PNA, continuing
   flagyl for aspiration PNA/cavitation on chest CT
   -cont. flagyl day [**4-17**]
   -due for HD today but no acute indication so would favor deferring
   until discussion with family
   -cont advair, nebs prn
   .
   #ESRD on HD
   -epo, zemplar with HD
   -appreciate renal recs
   .
   #CAD
   -ASA, plavix, BB
   -add statin
   .
   #COPD
   -changed advair to HFA given poor compliance with proper use of
   diskus
   .
    #HTN - would favor deferring uptitration of antihypertensive regimen
   at this time as tends toward hypotension with HD (due for session
   today)
   -increased captopril to 25 mg TID
   -cont metoprolol, consider increasing to 37.5 [**Hospital1 **] if still hypertensive
   after HD
   .
   #DM
   -SSI
   .
   #Depression/anxiety
   -continue sertraline
   -holding doxepin, seroquel
   .
   #FEN:
   -TF (nutren pulm goal rate 45 ml/hr 1620 kcal/73 g protein)
   -hypernatremia improved with increase in free H20 boluses
   -await results of swallow study
   -IP c/s for PEG placement
   #PPX: SQH, H2blocker
   #Access - R double-lumen PICC, L fistula
   #Code: FULL CODE (confirmed on [**2155-9-22**])
   #Communication: daughter ([**Name (NI) 635**]) [**Telephone/Fax (1) 9502**]
   #Dispo: To floor if tolerated HS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2155-9-30**] 12:15 PM 45 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: H2blocker
   Code status: Full code
   Disposition: To floor if tolerated HS

2155-10-01 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meeting - Full code + PEG
   HTN Urgency overnight
   Swallow consult - nector thickened liquids with supervision
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2155-9-30**] 12:40 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-9-30**] 10:00 PM
   Labetalol - [**2155-10-1**] 07:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-10-1**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.6
C (96
   HR: 82 (77 - 88) bpm
   BP: 186/104(124) {117/51(65) - 187/104(124)} mmHg
   RR: 23 (17 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
                  Total In:
                                                                  2,100 mL
                                                                    601 mL
   PO:
                  TF:
                                                                  1,080 mL
                                                                    471 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,100 mL
                                                                    601 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   380 K/uL
   104 mg/dL
   2.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   52 mg/dL
   105 mEq/L
   145 mEq/L
   23.5 %
   10.4 K/uL
        [image002.jpg]
                            [**2155-9-26**]  03:52 AM
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
                            [**2155-9-29**]  04:02 AM
                            [**2155-9-30**]  04:16 AM
                            [**2155-10-1**]  04:01 AM
   WBC
   13.0
   11.8
   13.7
   13.3
   11.5
   10.4
   Hct
   25.5
   24.5
   22.8
   24.8
   24.7
   23.5
   Plt
   [**Telephone/Fax (3) 9628**]28
   376
   380
   Cr
   2.1
   2.3
   2.0
   2.6
   3.1
   2.9
   TCO2
   35
   38
   37
   38
   Glucose
   159
   136
   102
   89
   110
   104
   Other labs: PT / PTT / INR:23.3/38.1/2.2, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.9 mg/dL
   Fluid analysis / Other labs: SPEP normal.
   Imaging: No new imaging
   Microbiology: No new micro.
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at HD with chronic diarrhea and weight loss,
   transferred to MICU [**9-22**] for hypoxemic respiratory failure most
   attributable to nosocomial pneumonia and pulmonary edema.
   #. Aspiration PNA: Has underlying COPD with 3 liters home oxygen
   requirement, poor secretion management, and aspiration.
   Oxygen requirements reduced
 now on 2L.
   - S/P course of vanc/cefipime x 9 days (d/c
ed [**9-29**]) as a course of
   abx has been completed.
   - Continue alb/atrovent/Advair
   - 2 wk course of flagyl for possible area of cavitation on CT
   (anaerobic coverage)
   #. Encephalopathy: Has had waxing and [**Doctor Last Name 226**] mental status, though good
   mentation today. Head CT
s negative for acute process and  sedating
   medications.  Some concern over temporal relationship to dialysis
   sessions.
   No additional management today, will need close monitoring after next
   HD session.
   #. CRF: On HD intermittently. Regular HD session scheduled today, but
   has not tolerated well in the past ((MS, hypotension) so will defer as
   no clear indication for HD.
   #. FEN/GI: Diarrhea - further w/u on hold until acute issues stabilize.
   On TF at goal for nutrition. FWF for hypernatremia.
   #.  HTN: Titrate BP meds.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: 3 units per
   check
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes

2155-10-02 07:38:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   -completed HD session but only removed 1.1 L since became
   uncomfortable, fatigued, short of breath - repeat CXR showed
   improvement c/w [**9-27**] & [**9-27**]
   -swallow study moved to [**10-2**] due to conflict with HD sesion
   -IP unable to do PEG since attendings are out of town, GI contact[**Name (NI) **] and
   may do in AM
   -tube feeds held at MN for possible PEG
   -gave vitamin k 10 mg IV as INR needs to be <1.5 for PEG, will likely
   need FFP in AM depending on coags
   -has a bed at the facility that the family prefers
   History obtained from Patient
   Allergies:
   History obtained from PatientMorphine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2155-9-30**] 12:40 PM
   Infusions:
   Other ICU medications:
   Labetalol - [**2155-10-1**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2155-10-1**] 10:00 PM
   Hydralazine - [**2155-10-2**] 07:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-10-2**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 93 (80 - 107) bpm
   BP: 147/79(83) {82/41(55) - 185/108(112)} mmHg
   RR: 20 (18 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
                  Total In:
                                                                  1,840 mL
                                                                    200 mL
   PO:
                  TF:
                                                                  1,080 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,840 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///33/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   418 K/uL
   7.5 g/dL
   222 mg/dL
   1.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   23 mg/dL
   99 mEq/L
   142 mEq/L
   23.1 %
   12.2 K/uL
        [image002.jpg]
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
                            [**2155-9-29**]  04:02 AM
                            [**2155-9-30**]  04:16 AM
                            [**2155-10-1**]  04:01 AM
                            [**2155-10-2**]  03:27 AM
   WBC
   11.8
   13.7
   13.3
   11.5
   10.4
   12.2
   Hct
   24.5
   22.8
   24.8
   24.7
   23.5
   23.1
   Plt
   [**Telephone/Fax (3) 9647**]76
   380
   418
   Cr
   2.3
   2.0
   2.6
   3.1
   2.9
   1.9
   TCO2
   35
   38
   37
   38
   Glucose
   136
   102
   89
   110
   104
   222
   Other labs: PT / PTT / INR:17.1/48.6/1.5, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.7 mg/dL
   Microbiology: [**2155-9-27**] 4:10 pm SPUTUM      Source: Induced.
      GRAM STAIN (Final [**2155-9-27**]):
         <10 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      RESPIRATORY CULTURE (Final [**2155-9-29**]):
         MODERATE GROWTH Commensal Respiratory Flora.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2155-9-28**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      FUNGAL CULTURE (Preliminary):
         YEAST.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to nosocomial pneumonia and, to a
   lesser extent, acute pulmonary edema.
   #Hypoxemic respiratory failure
 clinically improved, now stable on
   home O2 2-3L; completed 8-day ABX course for nosocomial PNA, continuing
   flagyl for aspiration PNA/cavitation on chest CT
   -cont. flagyl day [**5-18**]
   -cont advair, nebs prn
   #ESRD on HD
   -epo, zemplar with HD
   -appreciate renal recs
   #CAD
   -ASA, plavix, BB
   -add statin
   #COPD
   -changed advair to HFA given poor compliance with proper use of
   diskus
    #HTN - would favor deferring uptitration of antihypertensive regimen
   at this time as tends toward hypotension with HD (due for session
   today)
   -increased captopril to 25 mg TID
   -increased metoprolol to 37.5 [**Hospital1 **] (hold on HD days)
   #DM
   -SSI
   #Depression/anxiety
   -continue sertraline
   -holding doxepin, seroquel
   #FEN:
   -TF (nutren pulm goal rate 45 ml/hr 1620 kcal/73 g protein)
   -hypernatremia improved with increase in free H20 boluses
   -await results of swallow study
   -IP c/s for PEG placement
   #PPX: SQH, H2blocker
   #Access - R double-lumen PICC, L fistula
   #Code: FULL CODE (confirmed on [**2155-9-22**])
   #Communication: daughter ([**Name (NI) 635**]) [**Telephone/Fax (1) 9502**]
   #Dispo: To rehab
   ICU Care
   Nutrition: TFs currently on hold for PEG placement
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility

2155-10-02 10:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HD yesterday for 1.1 L
 felt tired, SOB with low BP afterwards
   S/p PEG this am
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2155-9-30**] 12:40 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-10-1**] 10:00 PM
   Hydralazine - [**2155-10-2**] 07:25 AM
   Fentanyl - [**2155-10-2**] 10:41 AM
   Midazolam (Versed) - [**2155-10-2**] 10:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-10-2**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.7
C (96.3
   HR: 82 (77 - 107) bpm
   BP: 117/72(81) {82/41(55) - 201/99(125)} mmHg
   RR: 22 (19 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
           Total In:
                                                                  1,840 mL
                                                                    348 mL
   PO:
           TF:
                                                                  1,080 mL
   IVF:
                                                                     50 mL
                                                                     38 mL
   Blood products:
   111 mL
   Total out:
                                                                      0 mL
                                                                    150 mL
   Urine:
   150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,840 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress, Thin, frail, chronically ill
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: mostly clear , scattered rales
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  warm, scattered ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: verbal
   stimuli, Movement: purposeful, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   418 K/uL
   222 mg/dL
   1.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   23 mg/dL
   99 mEq/L
   142 mEq/L
   23.1 %
   12.2 K/uL
        [image002.jpg]
                            [**2155-9-26**]  05:02 AM
                            [**2155-9-27**]  05:26 AM
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
                            [**2155-9-29**]  04:02 AM
                            [**2155-9-30**]  04:16 AM
                            [**2155-10-1**]  04:01 AM
                            [**2155-10-2**]  03:27 AM
   WBC
   11.8
   13.7
   13.3
   11.5
   10.4
   12.2
   Hct
   24.5
   22.8
   24.8
   24.7
   23.5
   23.1
   Plt
   [**Telephone/Fax (3) 9647**]76
   380
   418
   Cr
   2.3
   2.0
   2.6
   3.1
   2.9
   1.9
   TCO2
   35
   38
   37
   38
   Glucose
   136
   102
   89
   110
   104
   222
   Other labs: PT / PTT / INR:17.1/48.6/1.5, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at HD with chronic diarrhea and weight loss,
   transferred to MICU [**9-22**] for hypoxemic respiratory failure most
   attributable to nosocomial pneumonia and pulmonary edema.  Now improved
   and ready for rehab.
   #. Aspiration PNA: Has underlying COPD with 3 liters home oxygen
   requirement, poor secretion management, and aspiration.
   Oxygen requirements reduced
 now on 2L.
   - S/P course of vanc/cefipime x 9 days (d/c
ed [**9-29**]).
   - Continue alb/atrovent/Advair
   - 2 wk course of flagyl for possible area of cavitation on CT
   (anaerobic coverage)
 Will need f/u CT in 1 month
   - S/p PEG
   #. Encephalopathy: Has had waxing and [**Doctor Last Name 226**] mental status, though good
   mentation last few days. Head CT
s negative for acute process and
   sedating medications.  Per family, this is his baseline.
   #. ESRD: S/p HD yesterday
   #. FEN/GI: Diarrhea - further w/u on hold until acute issues
   stabilize.  FWF for hypernatremia.
   - PEG tube today
 start meds after 12h / TF in 24h
   - Video swallow today if can happen before goes to rehab (otherwise can
   be done at rehab)
   - Discuss with GI final recs for diarrhea w/u
   #.  HTN: Stable after HD.  On Captopril / metoprolol.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
 d/c at rehab once PEG tube okay to
   use
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab (Bed at [**Hospital 1130**] rehab with ready)
   Total time spent: 35 minutes

2155-10-03 08:02:00 Physician Resident Progress Note
Chief Complaint: Diarrhea
   24 Hour Events:
 PEG INSERTION - At [**2155-10-2**] 10:17 AM
   - Received PEG tube
   - Had bleeding around the site, received 2nd unit of FFP and 2 units of
   PRBCs for HCT of 19.9 from 23.1.
   - Requiring IV hydral as not getting po antihypertensives
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2155-10-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2155-10-2**] 10:41 AM
   Midazolam (Versed) - [**2155-10-2**] 10:42 AM
   Hydralazine - [**2155-10-3**] 04:10 AM
   Metoprolol - [**2155-10-3**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: PEG
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Wheeze
   Genitourinary: Foley, Dialysis
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2155-10-3**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.7
   HR: 91 (77 - 91) bpm
   BP: 174/74(97) {117/31(67) - 188/95(106)} mmHg
   RR: 21 (16 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,235 mL
                                                                    178 mL
   PO:
             TF:
   IVF:
                                                                    420 mL
                                                                    178 mL
   Blood products:
                                                                    615 mL
   Total out:
                                                                    350 mL
                                                                     60 mL
   Urine:
                                                                    150 mL
                                                                     60 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General Appearance: No(t) Thin, cachectic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, PEG
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG bandage c/d/i
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   347 K/uL
   11.0 g/dL
   110 mg/dL
   2.3 mg/dL
   32 mEq/L
   3.5 mEq/L
   32 mg/dL
   104 mEq/L
   148 mEq/L
   32.3 %
   10.1 K/uL
        [image002.jpg]
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
                            [**2155-9-29**]  04:02 AM
                            [**2155-9-30**]  04:16 AM
                            [**2155-10-1**]  04:01 AM
                            [**2155-10-2**]  03:27 AM
                            [**2155-10-2**]  04:02 PM
                            [**2155-10-3**]  02:55 AM
   WBC
   13.7
   13.3
   11.5
   10.4
   12.2
   9.8
   10.1
   Hct
   22.8
   24.8
   24.7
   23.5
   23.1
   19.9
   32.3
   Plt
   272
   328
   376
   [**Telephone/Fax (3) 9666**]
   347
   Cr
   2.0
   2.6
   3.1
   2.9
   1.9
   2.3
   TCO2
   38
   37
   38
   Glucose
   102
   89
   110
   104
   222
   110
   Other labs: PT / PTT / INR:14.0/35.6/1.2, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.2 mg/dL
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at [**Hospital 6791**] transferred to MICU [**9-22**] for hypoxemic
   respiratory failure most attributable to nosocomial pneumonia and, to a
   lesser extent, acute pulmonary edema.
   .
   #Hypoxemic respiratory failure
 clinically improved, now stable on
   home O2 2-3L; completed 8-day ABX course for nosocomial PNA, continuing
   flagyl for aspiration PNA/cavitation on chest CT
   -cont. flagyl day [**7-18**]
   -repeat NCCT chest in 1 month
   -cont advair, nebs prn
   .
   #ESRD on HD
   -epo, zemplar with HD
   -appreciate renal recs
   .
   #CAD
   -ASA, plavix, BB
   -add statin
   .
   #COPD
   -changed advair to HFA given poor compliance with proper use of
   diskus
   .
    #HTN
   -increased captopril to 25 mg TID
   -increased metoprolol to 37.5 [**Hospital1 **] (hold on HD days)
   -IV Hydral prn
   .
   #DM
   -SSI
   .
   #Depression/anxiety
   -continue sertraline
   -holding doxepin, seroquel
   .
   #FEN:
   -PEG placed [**10-2**], should be OK to use today
   -possible video swallow study  today
   -will follow-up with GI as outpt
   .
   #PPX: SQH, H2blocker
   #Access - R double-lumen PICC (d/c once able to administer meds via
   PEG)
   #Code: FULL CODE (confirmed on [**2155-9-22**])
   #Communication: daughter ([**Name (NI) 635**]) [**Telephone/Fax (1) 9502**]
   #Dispo: rehab
   ICU Care
   Nutrition: resume TF in 24 hrs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Communication: Family meeting held , ICU consent signed
   Code status: Full code
   Disposition: rehab
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility

2155-10-03 09:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PEG placed with bleeding noticed around peg site.  HCT decrased 3-4%.
   2 Units FFP. 2 units PRBC.
   IV hydralazine as off PO antihypertensives.
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2155-10-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2155-10-2**] 10:41 AM
   Midazolam (Versed) - [**2155-10-2**] 10:42 AM
   Hydralazine - [**2155-10-3**] 04:10 AM
   Metoprolol - [**2155-10-3**] 06:11 AM
   Other medications:
   Sertraline, Iron, RISS, MV, Asa, Ranitidine, Plavix, Fluticasone,
   Lidocaine, Captopril, Vitamin D, metoprolol, Flagyl, SQ heparin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-10-3**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.7
   HR: 90 (80 - 91) bpm
   BP: 175/79(101) {117/31(67) - 188/95(106)} mmHg
   RR: 19 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 57.2 kg
   Height: 71 Inch
             Total In:
                                                                  1,235 mL
                                                                    180 mL
   PO:
             TF:
   IVF:
                                                                    420 mL
                                                                    180 mL
   Blood products:
                                                                    615 mL
   Total out:
                                                                    350 mL
                                                                     60 mL
   Urine:
                                                                    150 mL
                                                                     60 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2 L
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   347 K/uL
   110 mg/dL
   2.3 mg/dL
   32 mEq/L
   3.5 mEq/L
   32 mg/dL
   104 mEq/L
   148 mEq/L
   32.3 %
   10.1 K/uL
        [image002.jpg]
                            [**2155-9-27**]  01:45 PM
                            [**2155-9-27**]  02:59 PM
                            [**2155-9-28**]  03:29 AM
                            [**2155-9-28**]  04:24 AM
                            [**2155-9-29**]  04:02 AM
                            [**2155-9-30**]  04:16 AM
                            [**2155-10-1**]  04:01 AM
                            [**2155-10-2**]  03:27 AM
                            [**2155-10-2**]  04:02 PM
                            [**2155-10-3**]  02:55 AM
   WBC
   13.7
   13.3
   11.5
   10.4
   12.2
   9.8
   10.1
   Hct
   22.8
   24.8
   24.7
   23.5
   23.1
   19.9
   32.3
   Plt
   272
   328
   376
   [**Telephone/Fax (3) 9666**]
   347
   Cr
   2.0
   2.6
   3.1
   2.9
   1.9
   2.3
   TCO2
   38
   37
   38
   Glucose
   102
   89
   110
   104
   222
   110
   Other labs: PT / PTT / INR:14.0/35.6/1.2, CK / CKMB /
   Troponin-T:20//0.14, Differential-Neuts:94.3 %, Lymph:3.2 %, Mono:2.1
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.2 mg/dL
   Imaging: No new imaging.
   Microbiology: No new cultures.
   Assessment and Plan
   60M ESRD on HD, DM, COPD on home O2, CAD admitted [**9-18**] after a
   hypotensive episode at HD with chronic diarrhea and weight loss,
   transferred to MICU [**9-22**] for hypoxemic respiratory failure most
   attributable to nosocomial pneumonia and pulmonary edema.  Now improved
   and ready for rehab.
   #. Aspiration PNA: Has underlying COPD with 3 liters home oxygen
   requirement, poor secretion management, and aspiration.
   Oxygen requirements reduced
 now on 2L.
   - S/P course of vanc/cefipime x 9 days (d/c
ed [**9-29**]).
   - Continue alb/atrovent/Advair
   - 2 wk course of flagyl for possible area of cavitation on CT
   (anaerobic coverage)
 Will need f/u CT in 1 month
   - S/p PEG
   #. Encephalopathy: Has had waxing and [**Doctor Last Name 226**] mental status, though good
   mentation last few days. Head CT
s negative for acute process and
   sedating medications.  Per family, this is his baseline.
   #. ESRD: S/p HD Tuesday. No acute indications today. Plan for HD at
   rehab tomorrow.
   #. FEN/GI: Diarrhea - further w/u on hold until acute issues
   stabilize.  FWF for hypernatremia.
   - PEG tube okay to use
   - Video swallow at rehab
   - Will f/u with GI in 2 weeks as outpt
   #.  HTN: Stable after HD.  On Captopril / metoprolol
 will restart POs
   now that PEG tube is able to be used.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2155-9-23**] 05:36 PM
 Will d/c Monday at rehab.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 20 minutes